US04152441
A. Preparation of α,α-bis(p-tert.-butylphenyl)-1-vinylimidazole-2-methanol.
This compound was prepared by the procedure indicated in Example XXII A, using the following materials: 10 g. (0.03 mol) of 4,4'-di-tert.-butylbenzophenone, 19.5 ml. (0.04 mol) of 20% butyllithium in n-hexane, 3 g. (0.03 mol) of 1-vinylimidazole and 4.9 g. (0.04 mol) of N,N,N', N'-tetramethylethylenediamine. The product was crystallised from ethyl acetate. Melting point 169°-170° C.

reactant | 4,4'-di-tert.-butylbenzophenone | 0.03 mol | C(C)(C)(C)C1=CC=C(C(=O)C2=CC=C(C=C2)C(C)(C)C)C=C1 | C21H26O
reactant | butyllithium | 0.04 mol | C(CCC)[Li]
reactant | 1-vinylimidazole | 0.03 mol | C(=C)N1C=NC=C1 | C5H6N2
reactant | N,N,N', N'-tetramethylethylenediamine | 0.04 mol | CN(CCN(C)C)C | C6H16N2
solvent | n-hexane | CCCCCC | C6H14
product | α,α-bis(p-tert.-butylphenyl)-1-vinylimidazole-2-methanol | C(C)(C)(C)C1=CC=C(C=C1)C(O)(C=1N(C=CN1)C=C)C1=CC=C(C=C1)C(C)(C)C | C26H32N2O
